* C:\Users\Hp\Documents\LTspice\Draft1 (2).asc
* Generated by LTspice 26.0.1 for Windows.
Rg N010 N022 5k
rrr N022 N027 10
R1 N005 N010 10k
R2 N021 N027 10k
R N006 N005 10k
RR 0 N021 20k
R3 N007 N006 20k
C1 N012 N007 1µ
C2 N020 N012 1µ
R4 N020 0 27k
R5 N013 N012 27k
R6 N008 N013 11k
R7 N019 N008 11k
C3 N019 0 1µ
C4 N009 N008 1µ
R8 N009 N017 10k
R9 N017 0 10k
R12 N032 N035 3.3k
R13 N034 N032 3.3k
C5 N034 N037 1µ
C6 N037 N035 1µ
R14 N037 N045 1.6k
C7 N032 N045 2µ
R15 N031 N042 10k
R16 N042 0 10k
V2 N001 0 5
V4 N011 0 5
V3 0 N002 5
V5 0 N026 5
Vreference N015 0 SINE(200m 500m 50) AC 1
X§U9 N019 N017 N011 N026 N009 LT1001 ;§pnba In+)In-)V+)V-)OUT
X§U10 N020 N013 N011 N026 N013 LT1001 ;§pnba In+)In-)V+)V-)OUT
X§U11 N016 N010 N001 N002 N005 LT1001 ;§pnba In+)In-)V+)V-)OUT
X§U12 N025 N022 N001 N002 N027 LT1001 ;§pnba In+)In-)V+)V-)OUT
X§U13 N021 N006 N001 N002 N007 LT1001 ;§pnba In+)In-)V+)V-)OUT
X§U15 N042 N045 N011 N026 N045 LT1001 ;§pnba In+)In-)V+)V-)OUT
X§U16 N034 N031 N011 N026 N031 LT1001 ;§pnba In+)In-)V+)V-)OUT
X§U1 N031 N039 N011 N026 N036 LT1001 ;§pnba In+)In-)V+)V-)OUT
R10 N039 N036 9.9k
R11 N039 0 0.1k
R17 N003 N009 11k
R18 N018 N003 11k
C8 N018 0 1µ
C9 N004 N003 1µ
X§U2 N018 N014 N011 N026 N004 LT1001 ;§pnba In+)In-)V+)V-)OUT
C10 N025 N024 0.125µ
C11 N016 N015 0.125µ
R19 0 N040 2k
R20 N040 N044 1k
V1 0 N044 5
X§U3 NC_01 N033 N011 N026 N038 LT1001 ;§pnba In+)In-)V+)V-)OUT
R21 N036 N033 1k
R22 N040 N033 1k
R23 N033 N038 0.85k
R24 N004 N014 10k
R25 N014 0 10k
C12 N023 N004 1µ
C13 N028 N023 1µ
R26 N028 0 27k
R27 N029 N023 27k
X§U4 N028 N030 N011 N026 N029 LT1001 ;§pnba In+)In-)V+)V-)OUT
R28 N029 N030 10k
R29 N030 0 10k
R30 N041 N029 3.3k
R31 N043 N041 3.3k
C14 N043 N046 1µ
C15 N046 N029 1µ
R32 N046 N048 1.6k
C16 N041 N048 2µ
R33 N035 N047 10k
R34 N047 0 10k
X§U5 N047 N048 N011 N026 N048 LT1001 ;§pnba In+)In-)V+)V-)OUT
X§U6 N043 N035 N011 N026 N035 LT1001 ;§pnba In+)In-)V+)V-)OUT
V8 N024 0 SINE(0 50u 10) AC 1
* Vreference
* Vactive
* High pass filter
* instrumental amplifier
* Low pass filter
* Notch filter
* +5v
* -5v
* High pass filter
.ac dec 100 0.1 1000
* Library below included based on ModelFile attribute of instance X§U9, X§U10, X§U11, X§U12, X§U13, X§U15, X§U16, X§U1, X§U2, X§U3, X§U4, X§U5, X§U6 (C:\Users\Hp\AppData\Local\LTspice\lib\sym\OpAmps\LT1001.asy)
.lib LTC.lib
.backanno
.end
